US07691879B2
1-[(2-ammonioethyl)amino]-6-methoxy-3-methyl-4-phenylisoquinolinium dichloride
Tert-butyl 2-[(6-methoxy-3-methyl-4-phenylisoquinolin-1-yl)amino]ethylcarbamate (0.61 g) was treated with 100 mL of HCl-saturated EtOAc. The reaction was stirred at 0 C for 30 min, then at room temp for 3.5 h, then concentrated to dryness. Recrystallization from methanol/EtOAc provided the titled compound.

reactant | Tert-butyl 2-[(6-methoxy-3-methyl-4-phenylisoquinolin-1-yl)amino]ethylcarbamate | 0.61 g | COC=1C=C2C(=C(N=C(C2=CC1)NCCNC(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C24H29N3O3
reactant | HCl | 100 mL | Cl | ClH
product | 1-[(2-ammonioethyl)amino]-6-methoxy-3-methyl-4-phenylisoquinolinium dichloride | [Cl-].[Cl-].[NH3+]CCNC1=[NH+]C(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C | InChI=1S/C19H21N3O.2ClH/c1-13-18(14-6-4-3-5-7-14)17-12-15(23-2)8-9-16(17)19(22-13)21-11-10-20;;/h3-9,12H,10-11,20H2,1-2H3,(H,21,22);2*1H
